US04665189
(a) 3-Cyanocinnamic acid
3-Cyanobenzaldehyde was reacted with malonic acid by the method described in Example 2(a) to give the title product, m.p. ca 240° C.

reactant | 3-Cyanobenzaldehyde | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
product | 3-Cyanocinnamic acid | C(#N)C=1C=C(C=CC(=O)O)C=CC1 | C10H7NO2
